US04038280
4-(3',5'-Dimethyl-4'-hydroxyphenyl)-1,2,2,6,6-pentamethylpiperidine.
3.0 Parts by weight of 4-(3',5'-dimethyl-4'-hydroxyphenyl)-2,2,6,6-tetramethylpiperidine was dissolved in formic acid and treated with 1.0 part by weight of formaldehyde on a steam bath. After heating for 12 hours the solution was cooled and basified in aqueous solution. The basification liquor was extracted into ether, the ethereal layer dried with magnesium sulphate and evaporated under reduced pressure. Crystallisation of the residue from petroleum (b.p. 80°-100°) have 1.9 parts by weight of product melting at 144°-6°.

reactant | 4-(3',5'-dimethyl-4'-hydroxyphenyl)-2,2,6,6-tetramethylpiperidine | CC=1C=C(C=C(C1O)C)C1CC(NC(C1)(C)C)(C)C | C17H27NO
reactant | formaldehyde | C=O | CH2O
solvent | formic acid | C(=O)O | CH2O2
product | 4-(3',5'-Dimethyl-4'-hydroxyphenyl)-1,2,2,6,6-pentamethylpiperidine | CC=1C=C(C=C(C1O)C)C1CC(N(C(C1)(C)C)C)(C)C | C18H29NO
